US04742057
A mixture of 3-(1-acetyl-4-piperidyl)-5-nitroindole (4 g), 2N aqueous sodium hydroxide solution (100 ml) and ethanol (100 ml) was refluxed for 7 hours. The reaction mixture was cooled and the resulting precipitate was collected by filtration. This solid was recrystallized from ethanol-water to give 3-(4-piperidyl)-5-nitroindole (2.64 g).

reactant | 3-(1-acetyl-4-piperidyl)-5-nitroindole | 4 g | C(C)(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C15H17N3O3
reactant | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(4-piperidyl)-5-nitroindole | 2.64 g | N1CCC(CC1)C1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C13H15N3O2
